US03968116
5-(Perfluorooctyl)-3-nitro-2-aminopyridine is reacted with 2,2,3,3-tetrafluoropropionyl chloride to obtain 5-(perfluorooctyl)-3-nitro-2-(2,2,3,3-tetrafluoropropionamido)pyridine, which when hydrogenated yields 6-(perfluorooctyl)-1-hydroxy-2-(1,1,2,2-tetrafluoroethyl)-1H-imidazo(4,5-b)pyridine.

reactant | 5-(Perfluorooctyl)-3-nitro-2-aminopyridine | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(C=1C=C(C(=NC1)N)[N+](=O)[O-])F | C13H4F17N3O2
reactant | 2,2,3,3-tetrafluoropropionyl chloride | FC(C(=O)Cl)(C(F)F)F | C3HClF4O
product | 5-(perfluorooctyl)-3-nitro-2-(2,2,3,3-tetrafluoropropionamido)pyridine | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(C=1C=C(C(=NC1)NC(C(C(F)F)(F)F)=O)[N+](=O)[O-])F | C16H4F21N3O3
